US04536503
A twofold stoichiometric excess of 3% hydrogen chloride in methanol is added to a solution of 1.0 g. of 1-(1-naphthyloxy)-8-(N,N-dimethylamino)octane in 20 ml methanol. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give 1-(1-naphthyloxy)-8-(N,N-dimethylamino)octane hydrochloride, m.p. 142°-143.5° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-(1-naphthyloxy)-8-(N,N-dimethylamino)octane | C1(=CC=CC2=CC=CC=C12)OCCCCCCCCN(C)C | C20H29NO
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 1-(1-naphthyloxy)-8-(N,N-dimethylamino)octane hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)OCCCCCCCCN(C)C | InChI=1S/C20H29NO.ClH/c1-21(2)16-9-5-3-4-6-10-17-22-20-15-11-13-18-12-7-8-14-19(18)20;/h7-8,11-15H,3-6,9-10,16-17H2,1-2H3;1H
